US06801233B2
Preparation of 3-methyl-5-n-octyl salicylic Acid Zinc Salt:
3-Methyl-5-n-octyl salicylic acid (prepared as described above, 48 g)was added with stirring to a solution of 14.5 g of a 50% aqueous solution of sodium hydroxide and 200 mL water in a 4 L beaker. To this was added 1 L of water and the solution was heated to 65° C. To the hot solution was then added with stirring 24.5 g of zinc chloride in 40 ml of water. A gummy solid precipitated. The solution decanted and the remaining solid was dissolved in 300 mL hot 95% ethanol. The hot solution was diluted with 500 ml of water and refrigerated. The product was filtered and washed (3×500 mL water) to give 53 g of off-white solid.

reactant | 3-Methyl-5-n-octyl salicylic acid | 48 g | CC1=C(C(C(=O)O)=CC(=C1)CCCCCCCC)O | C16H24O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | zinc chloride | 24.5 g | [Cl-].[Zn+2].[Cl-]
solvent | water | 40 ml | O | H2O
solvent | water | 1 L | O | H2O
solvent | water | 200 mL | O | H2O
product | 3-methyl-5-n-octyl salicylic Acid Zinc Salt | 53 g | [Zn+2].CC1=C(C(C(=O)[O-])=CC(=C1)CCCCCCCC)O.CC1=C(C(C(=O)[O-])=CC(=C1)CCCCCCCC)O | InChI=1S/2C16H24O3.Zn/c2*1-3-4-5-6-7-8-9-13-10-12(2)15(17)14(11-13)16(18)19;/h2*10-11,17H,3-9H2,1-2H3,(H,18,19);/q;;+2/p-2
